US06974815B2
A suspension of 1-[1-(4-bromo-benzyl)-2-oxocyclohexyl]-3-(3,5-dichlorophenyl)-urea (5.0 g) (0.0106 mol), K2CO3 (3.1 g) (2.1 eq) and molecular sieves 4A (15 g) in xylene (700 ml) was refluxed for 8 h. After cooling, the reaction mixture was filtered on paper, concentrated in vacuo, and the residue purified on SiO2 chromatography (eluent EtOAc/Cyclohexane-3/7) to yield 3a-(4-Bromo-benzyl)-1-(3,5-dichlorophenyl)-1,3,3a,4,5,6-hexahydro-benzimidazol-2-one (3.2 g) as a white solid. 1H NMR (CDCl3): 7.45 (2H, d), 7.20 (1H, m), 7.15 (2H, d), 7.05 (2H, m), 4.95 (1H, m), 3.0 (1H, d), 2.90 (1H, d), 2.5-2.1 (2H, m), 2.1-1.8 (3H, m), 1.8-1.6 (1H, m).

reactant | 1-[1-(4-bromo-benzyl)-2-oxocyclohexyl]-3-(3,5-dichlorophenyl)-urea | 0.0106 mol, 5.0 g | BrC1=CC=C(CC2(C(CCCC2)=O)NC(=O)NC2=CC(=CC(=C2)Cl)Cl)C=C1 | C20H19BrCl2N2O2
reactant | K2CO3 | 3.1 g, 2.1 eq | C(=O)([O-])[O-].[K+].[K+]
solvent | xylene | 700 ml | C=1(C(=CC=CC1)C)C | C8H10
product | 3a-(4-Bromo-benzyl)-1-(3,5-dichlorophenyl)-1,3,3a,4,5,6-hexahydro-benzimidazol-2-one | 3.2 g | BrC1=CC=C(CC23C(N(C(N2)=O)C2=CC(=CC(=C2)Cl)Cl)=CCCC3)C=C1 | C20H17BrCl2N2O
